US05650428
(S)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenylpropanamide (17.0 g) was dissolved in methanol (200 ml) and cooled to 0° C. After 2N NaOH (46.8 ml) was added, the whole was stirred at room temperature overnight under argon. The reaction mixture was concentrated under reduced pressure to remove methanol. The concentrate was poured to 6N HCl while cooling with ice. The precipitated crystal was filtered and recrystallized from acetonitrile to obtain (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(carboxymethyl)phenyl)-3-phenylpropanamide (1.10 g).

reactant | (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenylpropanamide | 17.0 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CC1=CC=CC=C1 | C25H25BrN2O5S
reactant | NaOH | 2N, 46.8 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(carboxymethyl)phenyl)-3-phenylpropanamide | 1.10 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)CC(=O)O)CC1=CC=CC=C1 | C23H21BrN2O5S
